US08309721B2
0.49 g of 2-bromo-5-cyanopyridine, 2.2 g of caesium carbonate, 0.12 g of 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene and 0.04 g of palladium acetate are successively added to a solution of 0.40 g of 9H-carbazole-4-carboxylic acid methyl ester, obtained according to stage 2 of Example 1, in 30 ml of dioxane under an inert argon atmosphere. The reaction mixture is refluxed for 2 hours, and then cooled, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography (15-40 μm), elution being carried out with a mixture of petroleum ether and dichloromethane (60/40 by volume), so as to give 376 mg of 9-(5-cyanopyridin-2-yl)-9H-carbazole-4-carboxylic acid methyl ester in the form of a yellow powder, the characteristics of which are the following:

reactant | 2-bromo-5-cyanopyridine | 0.49 g | BrC1=NC=C(C=C1)C#N | C6H3BrN2
reactant | caesium carbonate | 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.12 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 9H-carbazole-4-carboxylic acid methyl ester | 0.40 g | COC(=O)C1=CC=CC=2NC3=CC=CC=C3C12 | C14H11NO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9-(5-cyanopyridin-2-yl)-9H-carbazole-4-carboxylic acid methyl ester | 376 mg | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=NC=C(C=C1)C#N | C20H13N3O2
